US09370522B2
The product was obtained via a Suzuki coupling reaction using the method previously shown in Example 20, Step 3, using methyl 3-chloro-2-phenylquinoxaline-6-carboxylate (90 mg, 0.30 mmol, 1.00 equiv) and 3-fluorophenylboronic acid (63.4 mg, 0.45 mmol, 1.50 equiv) as reactants. Purification via silica gel column (dichloromethane/methanol (10:1)) yielded 60 mg (55%) of 3-(3-fluorophenyl)-2-phenylquinoxaline-6-carboxylic acid as a light yellow solid.

reactant | methyl 3-chloro-2-phenylquinoxaline-6-carboxylate | 0.30 mmol, 90 mg, 1.00 equiv | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11ClN2O2
reactant | 3-fluorophenylboronic acid | 0.45 mmol, 63.4 mg, 1.50 equiv | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
product | 3-(3-fluorophenyl)-2-phenylquinoxaline-6-carboxylic acid | 60 mg, 55% | FC=1C=C(C=CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C21H13FN2O2
